US07524822B2
1-(1-Methylethyl)-5-methyl-3-pyrazolidinone monohydrochloride (150 g; 0.84 mol) is treated with saturated aqueous potassium carbonate (1.2 L) and ethyl acetate (1.0 L). The mixture is filtered and the phases are separated. The organic phase is dried with anhydrous sodium sulphate, filtered and evaporated in vacuo to yield 1-(1-methylethyl)-5-methyl-3-pyrazolidinone as a solid.

reactant | 1-(1-Methylethyl)-5-methyl-3-pyrazolidinone monohydrochloride | 0.84 mol, 150 g | Cl.CC(C)N1NC(CC1C)=O
reactant | potassium carbonate | 1.2 L | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 1.0 L | C(C)(=O)OCC | C4H8O2
product | 1-(1-methylethyl)-5-methyl-3-pyrazolidinone | CC(C)N1NC(CC1C)=O | C7H14N2O
